US07728020B2
Preparation of [(R)-1-Cyanomethyl-3-(4-heptyloxy-phenyl)-1-methyl-propyl]-carbamic acid tert-butyl ester
To a stirred solution of (R)-4-[2-(4-heptyloxy-phenyl)-ethyl]-4-methyl-2,2-dioxo-2λ*6*-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester (174 mg, 0.40 mMol) in DMF (5 ml) is added sodium cyanide (94 mg, 1.91 mMol). The mixture is stirred at RT for 25 hours. Additional sodium cyanide (37 mg, 0.76 mMol) is added and the mixture is stirred at RT for 18 hours. The reaction mixture is then poured onto a biphasic mixture of AcOEt and NaHCO3 (saturated aqueous solution). The aqueous phase is extracted twice with AcOEt. The combined organic layers are dried (Na2SO4) and concentrated under reduced pressure. Column chromatography eluting with 5% AcOEt in toluene gives the title compound as a colourless oil.

reactant | (R)-4-[2-(4-heptyloxy-phenyl)-ethyl]-4-methyl-2,2-dioxo-2λ*6*-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 0.40 mMol, 174 mg | C(C)(C)(C)OC(=O)N1S(OC[C@@]1(C)CCC1=CC=C(C=C1)OCCCCCCC)(=O)=O | C23H37NO6S
reactant | sodium cyanide | 1.91 mMol, 94 mg | [C-]#N.[Na+]
reactant | sodium cyanide | 0.76 mMol, 37 mg | [C-]#N.[Na+]
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | [(R)-1-Cyanomethyl-3-(4-heptyloxy-phenyl)-1-methyl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@](CCC1=CC=C(C=C1)OCCCCCCC)(C)CC#N)=O | C24H38N2O3
